US07759337B2
Step A. Ethyl 3-(1-isopropylphthalazin-6-yl)4-methylbenzoate
A 50-mL round-bottom flask under argon was charged with ethyl 3-(1-chlorophthalazin-6-yl)-4-methylbenzoate (106 mg, 0.32 mmol), iron(III) acetylacetonate (5.7 mg, 0.032 mmol), tetrahydrofuran (2.2 mL), and 1-methyl-2-pyrrolidinone (0.22 mL). Isopropylmagnesium chloride (0.24 mL, 0.49 mmol) was added via a syringe to the resulting red solution, causing an immediate color change to brown, and then finally to dark brown. The resulting mixture was stirred for 10 min, and the reaction was diluted with ethyl acetate and carefully quenched with 10% HCl solution. The mixture was washed with saturated aqueous NaHCO3 solution and the organic layer was dried (MgSO4) and concentrated in vacuo. CombiFlash purification (20% to 50% ethyl acetate in hexanes) afforded the title compound as a cream amorphous solid. MS (ES+): 335.2 (M+H)+.

reactant | ethyl 3-(1-chlorophthalazin-6-yl)-4-methylbenzoate | 0.32 mmol, 106 mg | ClC1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)OCC)C=CC1C | C18H15ClN2O2
reactant | tetrahydrofuran | 2.2 mL | O1CCCC1 | C4H8O
reactant | 1-methyl-2-pyrrolidinone | 0.22 mL | CN1C(CCC1)=O | C5H9NO
reactant | Isopropylmagnesium chloride | 0.49 mmol, 0.24 mL | C(C)(C)[Mg]Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | iron(III) acetylacetonate | 0.032 mmol, 5.7 mg | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Fe+3]
product | Ethyl 3-(1-isopropylphthalazin-6-yl)4-methylbenzoate | C(C)(C)C1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)OCC)C=CC1C | C21H22N2O2
